US04686228
4-Amino-6,7-dimethoxy-2-(4-benzylpiperazin-1-yl)quinoline (6.2 g) in ethanol (300 ml) with 5% Pd/C catalyst was stirred at 50° under an atmosphere of hydrogen (50 p.s.i.) for 20 hours. The mixture was cooled, chloroform (100 ml) added and the solution filtered through "Solkafloc". The solid was washed with chloroform-methanol (1:1, 4×100 ml) and the combined filtrates evaporated in vacuo. The residue was partitioned between chloroform-sodium carbonate solution (10%), the organic layer removed, the aqueous phase saturated with salt and further extracted with chloroform. The combined organic extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo to yield 4-amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline (2.42 g). Spectroscopy showed this product to be the same as that of Example 32.

reactant | 4-Amino-6,7-dimethoxy-2-(4-benzylpiperazin-1-yl)quinoline | 6.2 g | NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)CC1=CC=CC=C1 | C22H26N4O2
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline | 2.42 g | NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C15H20N4O2
